US07375099B2
c) N-(3,5-Difluoro-benzyl)-N′-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(1H-indol-3-ylmethyl)-2-oxo-ethyl]-2-methyl-malonamide
2-Amino-1-(3,4-dihydro-1H-isoquinolin-2-yl)-3-(1H-indol-3-yl)-propan-1-one (57 mg, 0.18 mmol) was placed in a disposable polypropylene tube and dissolved in DMF (1 ml). TBTU (O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-tetrafluoroborate, 65 mg, 0.2 mmol) and N-(3,5-difluoro-benzyl)-2-methyl-malonamic acid (49 mg, 0.2 mmol) were added, and the mixture was shaken overnight at r.t. The title compound, MS: m/e=545.3 (M+H+), was isolated from the reaction mixture by automated, preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min).

reactant | 2-Amino-1-(3,4-dihydro-1H-isoquinolin-2-yl)-3-(1H-indol-3-yl)-propan-1-one | 0.18 mmol, 57 mg | NC(C(=O)N1CC2=CC=CC=C2CC1)CC1=CNC2=CC=CC=C12 | C20H21N3O
reactant | TBTU | 0.2 mmol, 65 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-(3,5-difluoro-benzyl)-2-methyl-malonamic acid | 0.2 mmol, 49 mg | FC=1C=C(CNC(C(C(=O)O)C)=O)C=C(C1)F | C11H11F2NO3
reactant | CH3CN | CC#N | C2H3N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3,5-Difluoro-benzyl)-N′-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(1H-indol-3-ylmethyl)-2-oxo-ethyl]-2-methyl-malonamide | FC=1C=C(CNC(C(C(=O)NC(C(=O)N2CC3=CC=CC=C3CC2)CC2=CNC3=CC=CC=C23)C)=O)C=C(C1)F | C31H30F2N4O3
